US06514964B1
Step D: 1,2,3,4-tetrahydropyridino[2,3-b]pyridin-7-ylmethylamine
Hydroxyamine hydrochloride (2 eq), sodium acetatetrihydrate (2 eq) and water (0.4M) were heated at 60° C. 1,2,3,4-tetrahydropyridino[2,3-b]pyridine-7-carbaldehyde was dissolved in methanol (2.5 mL) and added to the resulting solution. Additional methanol was added until the solution became clear, the reaction was stirred at 60° C. for 18 hrs. The mixture was cooled to room temperature, diluted with water (25 mL) and extracted with ether. The organic layer was extracted with saturated sodium bicarbonate and brine, dried over sodium sulfate, filtered and concentrated by in vacuo. To a solution of the oxime in trifluoroacetic acid (5 mL) was added zinc dust (5.6 eq) in several portions, while keeping the temperature between 15-25° C. After stirring for 15 mins., the mixture was added to a solution of an aqueous 2N NaOH (39 mL) solution and methylene chloride (21 mL) at 0° C. and stirred for an additional 15 mins. The reaction was filtered and the organic layer was separated, washed with water and brine, dried over sodium sulfate and concentrated in vacuo to yield the product. EI-MS m/z 163(M+H)+.

reactant | Hydroxyamine hydrochloride | 2 eq | Cl.ON
reactant | sodium acetatetrihydrate | 2 eq | CC(=O)[O-].O.O.O.[Na+]
reactant | 1,2,3,4-tetrahydropyridino[2,3-b]pyridine-7-carbaldehyde | N1CCCC=2C1=NC(=CC2)C=O | C9H10N2O
reactant | NaOH | 2N, 39 mL | [OH-].[Na+]
solvent | methanol | 2.5 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | zinc | 5.6 eq | [Zn] | Zn
solvent | water | 0.4M | O | H2O
solvent | methylene chloride | 21 mL | C(Cl)Cl | CH2Cl2
product | 1,2,3,4-tetrahydropyridino[2,3-b]pyridin-7-ylmethylamine | N1CCCC=2C1=NC(=CC2)CN | C9H13N3
